US07452911B2
3.8d 5-(4-chloro-phenyl)-2-[4-(2-pyrrolidin-1-yl-ethoxy)-3-trifluoromethyl-phenylethynyl]-pyridine
Prepared according to general working method I from 1-[2-(4-iodo-2-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine (180 mg, 0.47 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (83 mg, 0.39 mmol).

reactant | 1-[2-(4-iodo-2-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine | 0.47 mmol, 180 mg | IC1=CC(=C(OCCN2CCCC2)C=C1)C(F)(F)F | C13H15F3INO
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.39 mmol, 83 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chloro-phenyl)-2-[4-(2-pyrrolidin-1-yl-ethoxy)-3-trifluoromethyl-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)OCCN1CCCC1)C(F)(F)F | C26H22ClF3N2O
